US04657899
3-[2-(3-Phosphonopropyl)phenyl]-2-aminopropanoic acid
A solution of 3.0 g (6.9 mmol) of ethyl 3-[2-(diethylphosphonopropyl)phenyl]-2-acetamido-2-carboethoxypropanoate in 25 mL of 6N HCl was stirred at vigorous reflux 12 h. After cooling to room temperature the reaction mixture was concentrated at reduced pressure yielding an oil. The oil was washed with three 25 mL portions of water then dissolved in 25 mL 95% ethanol and propylene oxide added dropwise. The precipitated acid was collected by filtration. Recrystallization from dilute ethanol yield 0.76 g (38%) as a white solid mp>95° C. (dec.). IR(nujol): 1717.6 cm-1 (C=O). 1H NMR(D2O) δ 1.1-2.0 (complex m, 4H); 2.6-3.1 (m, 4H); 3.35-3.65 (m, 1H); 7.3 (m, 4H). Anal. Calcd. for: C12H18NO5P.H2O: C, 47.21; H, 6.60; N, 4.58. Found: C, 47.47; H, 6.72; N, 4.53.

reactant | ethyl 3-[2-(diethylphosphonopropyl)phenyl]-2-acetamido-2-carboethoxypropanoate | 6.9 mmol, 3.0 g | C(C)OP(=O)(OCC)CCCC1=C(C=CC=C1)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C23H36NO8P
solvent | HCl | 6N, 25 mL | Cl | ClH
product | 3-[2-(3-Phosphonopropyl)phenyl]-2-aminopropanoic acid | P(=O)(O)(O)CCCC1=C(C=CC=C1)CC(C(=O)O)N | C12H18NO5P
